US07897737B2
NaBH4 (3.24 g, 85.60 mmol) was slowly added to a solution of 2′-nitroacetophenone NAP (3.74 g, 22.65 mmol) in a mixture of methanol (34 mL) and dioxane (22 mL). The reaction mixture was stirred at room temperature for one hour and then diluted with ethyl acetate (100 mL) and washed with water (25 mL). The organic layer was dried with Na2SO4, filtered, and concentrated in vacuo to yield 1-(2-nitrophenyl)ethanol dC.13a (3.49 g, 92%) as a white powder.

reactant | NaBH4 | 85.60 mmol, 3.24 g | [BH4-].[Na+]
reactant | 2′-nitroacetophenone | [N+](=O)([O-])C1=C(C=CC=C1)C(C)=O | C8H7NO3
solvent | methanol | 34 mL | CO | CH4O
solvent | dioxane | 22 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2-nitrophenyl)ethanol | [N+](=O)([O-])C1=C(C=CC=C1)C(C)O | C8H9NO3
